US08008298B2
1-[2-(3-Iodo-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2,-dimethyl-propan-1-one (150 mg, 0.37 mmol), the oxalate salt of 2-oxa-6-aza-spiro[3.3]heptane (267 mg, 0.93 mmol), potassium carbonate (255 mg, 1.85 mmol), copper iodide (14 mg, 0.074 mmol), and d,l-proline (17 mg, 0.148 mmol) were added to a microwave vial. The vial was capped and purged with nitrogen. DMSO (3.7 ml) was added and the vial was purged with nitrogen again. The reaction was heated in a sand bath at 100° C. for 72 hours. The reaction was poured into ice water, extracted into ethyl acetate, washed with water and brine, dried with sodium sulfate and concentrated. The crude product was purified by flash chromatography using a gradient of 30% to 50% ethyl acetate in hexanes to yield 35 mg (25%) of 2,2-dimethyl-1-{2-[3-(2-oxa-6-aza-spiro[3.3]hept-6-yl)-phenyl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-propan-1-one as a yellow solid. (M+H)+=377; MP=260.0-262.0° C.

reactant | 1-[2-(3-Iodo-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2,-dimethyl-propan-1-one | 0.37 mmol, 150 mg | IC=1C=C(C=CC1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C17H16IN3O
reactant | 2-oxa-6-aza-spiro[3.3]heptane | 0.93 mmol, 267 mg | C1OCC12CNC2 | C5H9NO
reactant | potassium carbonate | 1.85 mmol, 255 mg | C([O-])([O-])=O.[K+].[K+]
reactant | d,l-proline | 0.148 mmol, 17 mg | N1C(C(=O)O)CCC1 | C5H9NO2
catalyst | copper iodide | 0.074 mmol, 14 mg | [Cu](I)I
product | 2,2-dimethyl-1-{2-[3-(2-oxa-6-aza-spiro[3.3]hept-6-yl)-phenyl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-propan-1-one | 35 mg, 25% | CC(C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=CC=C2)N2CC1(COC1)C2)(C)C | C22H24N4O2
